US08859580B2
(1H-Benzoimidazol-5-yl)-[6,11,11-trimethyl-9-(5-methyl-[1,2,4]oxadiazol-3-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
Acetic anhydride (0.1 mL) is added to a solution of 3-(1H-benzoimidazole-5-carbonyl)-N-hydroxy-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carboxamidine (0.15 g) in 2,4,6-trimethylpyridine (2 mL). The resulting solution is stirred at ambient temperature for 1 h and then at 120° C. for 3 h. After cooling to room temperature, the mixture is concentrated under reduced pressure and the residue is taken up in methanol (10 mL). Concentrated aqueous ammonia solution (1 mL) is added and the solution is stirred at ambient temperature for 1 h. The solution is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (water/MeCN) to give the title compound as a white foam-like solid.

reactant | Acetic anhydride | 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(1H-benzoimidazole-5-carbonyl)-N-hydroxy-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-9-carboxamidine | 0.15 g | N1C=NC2=C1C=CC(=C2)C(=O)N2C1CC3=C(C(CC2)(C1(C)C)C)C=CC(=C3)C(=N)NO | C24H27N5O2
solvent | 2,4,6-trimethylpyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | (1H-Benzoimidazol-5-yl)-[6,11,11-trimethyl-9-(5-methyl-[1,2,4]oxadiazol-3-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2C1CC3=C(C(CC2)(C1(C)C)C)C=CC(=C3)C3=NOC(=N3)C | C26H27N5O2
